US05726194
Analogously to Example 1, by reaction of 5-amino-2,1,3-benzoxadiazole (obtainable by reduction of 5-nitro-2,1,3-benzoxadiazole-1- or 3-N-oxide with triethyl phosphite) with 2-ethylbenzenesulfonyl chloride, 2-ethyl-N-(2,1,3-benzoxadiazol-5-yl)-1-benzenesulfonamide is obtained.

reactant | 5-amino-2,1,3-benzoxadiazole | NC1=CC=2C(=NON2)C=C1 | C6H5N3O
reactant | 2-ethylbenzenesulfonyl chloride | C(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H9ClO2S
product | 2-ethyl-N-(2,1,3-benzoxadiazol-5-yl)-1-benzenesulfonamide | C(C)C1=C(C=CC=C1)S(=O)(=O)NC1=CC=2C(=NON2)C=C1 | C14H13N3O3S
